US07138397B2
15 ml of toluene-1.5 ml of chloroform solution containing 500 mg of N-tert-butoxycarbonyl-trans-1,4-cyclohexanediamine, 623 mg of ethyl 2-bromomethyl benzoate and 354 mg of triethylamine was heated at 100° C. for 5 hours. After cooling, water was added to the mixture and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel flash column chromatography to obtain 400 mg of N-tert-butoxycarbonyl-trans-4-(1-oxo-2-isoindolinyl)cyclohexylamine.

reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | N-tert-butoxycarbonyl-trans-1,4-cyclohexanediamine | 500 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)N | C11H22N2O2
reactant | triethylamine | 354 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
product | N-tert-butoxycarbonyl-trans-4-(1-oxo-2-isoindolinyl)cyclohexylamine | 400 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1)=O | C19H26N2O3
